US05234946
Production of 3-(2-methoxybenzyloxy)benzyl methanesulfonate
530 mg of 3-(2-methoxybenzyloxy)benzyl alcohol obtained by reducing 3-(2-methoxybenzyloxy)benzaldehyde with sodium borohydride in ethanol was dissolved in 8 ml of methylene chloride. The solution was stirred at -5° to 0° C., 0.20 ml of methanesulfonyl chloride and 0.65 ml of triethylamine were added. The mixture was stirred at this temperature for 5 minutes. The reaction mixture was diluted with methylene chloride, washed with a saturated aqueous solution of sodium hydrogen carbonate, and dried over anhydrous magnesium sulfate. The solvent was evaporated to give 660 mg (yield 95.3%) of the captioned compound as a colorless oil.

reactant | 3-(2-methoxybenzyloxy)benzaldehyde | COC1=C(COC=2C=C(C=O)C=CC2)C=CC=C1 | C15H14O3
reactant | sodium borohydride | [BH4-].[Na+]
reactant | methanesulfonyl chloride | 0.20 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.65 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | C(C)O | C2H6O
solvent | methylene chloride | 8 ml | C(Cl)Cl | CH2Cl2
product | 3-(2-methoxybenzyloxy)benzyl methanesulfonate | 660 mg, yield 95.3% | CS(=O)(=O)OCC1=CC(=CC=C1)OCC1=C(C=CC=C1)OC | C16H18O5S
